US06103708
4-[2,6-Dibromo-4-(2-ethyl-benzofuran-3-carbonyl)-phenoxysulfonyl]-2-hydroxybenzoic acid
At ambient temperature, to a stirred solution of commercial benzbromarone (0.243 g, 0.574 mmol) in 0.5M aq. NaHCO3 :THF (8 mL; 1:1) was added portionwise 4-chlorosulphonyl-2-hydroxybenzoic acid (0.271 g, 1.15 mmol) while maintaining the pH at 8 with the simultaneous addition of 0.5M aq. NaHCO3. After the addition was complete the reaction was stirred for 18 h. To the reaction was added 4-chlorosulphonyl-2-hydroxybenzoic acid (0.271 g, 1.15 mmol) while maintaining the pH at 8 with the simultaneous addition of 0.5M aq. NaHCO3. After 2 h, the reaction was quenched with 2N HCl (25 mL), extracted with EtOAc and concentrated. The crude product was purified by preparative HPLC (C18, eluting with 75% CH3CN/H2O containing 0.1% TFA) and crystallized from EtOAc/hexane to give 0.14 g (39%) of the title compound as a white solid, mp 173° C.; 1H NMR (DMSO-d6) δ 1.25 (t, 3 H), 2.76 (q, 2 H), 7.30 (dt, 1 H), 7.36 (dt, 1 H), 7.44-7.49 (m, 3 H), 7.66 (d, 1 H), 8.03 (d, 1 H), 8.08 (s, 2 H). IR (KBr) 3400, 2950, 1680, 1650, 1400 and 1180 cm-1, mass spectrum (-ESI), m/z 621/623/625 (M-H). Anal. Calcd. for C24H16Br2O8S: C, 46.18; H, 2.58; N, 0.00. Found: C, 46.41; H, 2.64; N, 0.00.

reactant | benzbromarone | 0.574 mmol, 0.243 g | CCC1=C(C=2C=CC=CC2O1)C(=O)C=3C=C(C(=C(C3)Br)O)Br | C17H12Br2O3
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 1.15 mmol, 0.271 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 1.15 mmol, 0.271 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
solvent | NaHCO3 | 0.5M | C(=O)(O)[O-].[Na+]
solvent | NaHCO3 | 0.5M | C(=O)(O)[O-].[Na+]
solvent | NaHCO3 | 0.5M | C(=O)(O)[O-].[Na+]
product | 4-[2,6-Dibromo-4-(2-ethyl-benzofuran-3-carbonyl)-phenoxysulfonyl]-2-hydroxybenzoic acid | 0.14 g, 39% | BrC1=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C(=CC(=C1)C(=O)C1=C(OC2=C1C=CC=C2)CC)Br | C24H16Br2O8S
